Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right BKA stump infection
 
Major Surgical or Invasive Procedure:
1. Ultrasound-guided access to the right common femoral
    artery.
2. Selective catheterization of the left external iliac
    artery, ___ order vessel.
3. Abdominal aortogram.
4. Left lower extremity diagnostic angiogram.

 
History of Present Illness:
HPI: ___ with CAD s/p CABG, CHF (EF 15%), CKD on HD, a fib on
Coumadin s/p R BKA in ___ presents to the ___ ED with 2
weeks of worsening erythema, pain, and drainage from his R BKA
stump. He was seen yesterday by Dr. ___ in clinic, who
advised him to come in to be admitted, which is why he presented
today. He endorses pain at the stump site, which has been
increasing. He denies any systemic symptoms, including fever,
chills, nausea, vomiting, abdominal pain, dizziness, shortness 
of
breath, or chest pain. He does endorse a "stomach bug" last week
where he had nausea and vomiting and subjective fever; however,
he has completely recovered from that and only has local 
symptoms
now.

 
Past Medical History:
NSTEMI/CAD (s/p CABG), ischemic cardiomyopathy (EF 15% ___,
___ Cardiologist), PAD, DM2, chronic pain syndrome,
nocturia, peripheral neuropathy, lumbago, afib, CKD (baseline 
Cre
2.5), cardioembolic stroke (L hemiplegia, ___
Neurology), L atrial appendage clot on coumadin depression,
ventricular tachycardia, rhabdomyolysis

PSH: 
5V CABG ___
R pop-DP bypass, ___ toe amputation ___ (___ 
___, Vascular surgeon Dr ___ hematoma evacuation ___ (___)
bypass graft explantation
tonsillectomy
Debridement ankle infection ___
Revision right ankle ligament reconstruction with Achilles 
tendon
allograft ___

 
Social History:
___
Family History:
CAD, DM, stroke

 
Physical Exam:
Admission Physical Exam:
Vitals: 98.9, 106/68, 83, 18, 99% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
Ext: No ___ edema, ___ warm and well perfused
R BKA stump with two open areas draining purulent fluid and with
surrounding erythema
Pulses: R p/d/BKA   L p/d/-/d

Discharge Physical exam
Vitals: 97.9, 85, 124/70, 18, 97%RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
Ext: Right BKA wound stable, no purulence drainage, does not 
probe deep or undermine. No signs of surrounding erythema or 
edema. Left foot with ischemic lesions, stable, entire left 
leg/foot with deep red discoloration, most likely ischemic in 
nature.
Pulses: R p/d/BKA   L p/d/-/d
 
Pertinent Results:
___ 01:00PM BLOOD Plt ___
___ 01:00PM BLOOD ___ PTT-38.2* ___
___ 01:00PM BLOOD Glucose-227* UreaN-36* Creat-2.8* Na-133 
K-7.3* Cl-96 HCO3-27 AnGap-17
___ 02:56PM BLOOD Calcium-8.3* Phos-4.4
___ 07:41AM BLOOD %HbA1c-6.2* eAG-131*
___ 07:24AM BLOOD Vanco-8.3*
___ 01:17PM BLOOD Lactate-1.5
___ 06:20AM BLOOD WBC-4.5 RBC-4.04* Hgb-9.6* Hct-34.5* 
MCV-85 MCH-23.8* MCHC-27.8* RDW-19.8* RDWSD-61.0* Plt ___
___ 06:20AM BLOOD Plt ___
___ 06:20AM BLOOD Glucose-128* UreaN-34* Creat-3.5* Na-136 
K-4.1 Cl-99 HCO3-25 AnGap-16
___ 06:20AM BLOOD Calcium-8.9 Phos-4.9* Mg-2.2
___ 06:20AM BLOOD Vanco-16.3

Microbiology Results:

 Source: Right stump wound, taken deep after bedside debridment 
and
      flush. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED

___ 1:00 pm BLOOD CULTURE

                            **FINAL REPORT ___
Blood Culture, Routine (Final ___:    NO GROWTH

___ 1:15 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

Cardiology Tests
==================

TOTAL EXERCISE TIME:  4 % MAX HRT RATE ACHIEVED:  43 
 

SYMPTOMS: NONE   
ST DEPRESSION: NONE 
 

  
INTERPRETATION: ___ yo man with ischemic cardiomyopathy and LVEF 
~ 
15%, MI and s/p 5-vessel CABG in ___, h/o atrial fibrillation 
and 
VT s/p PPM-ICD in ___, PVD and ESRD on HD, s/p BKA in 
___ now admitted for right stump would infection was referred 
for 
evaluation prior to surgery. The patient was administered 0.142 
mg/kg/min of Persantine over 4 minutes. No chest, back, neck or 
arm 
discomforts were reported. No significant ST segment changes 
were noted 
from baseline. The rhythm was atrial fibrillation with frequent 
isolated 
VPBs and rare ventricular couplet. The hemodynamic response to 
the 
Persantine infusion was blunted. Post-infusion, the patient was 
administered 125 mg Aminophylline IV. 
  
IMPRESSION: No anginal symptoms or significant ST segment 
changes from 
baseline. Blunted hemodynamic response to the Persantine 
infusion. 
Nuclear report sent separately. 
 

Cardiac perfusion Pharm
FINDINGS:  
  
The image quality is adequate but limited due to soft tissue 
attenuation and 
motion.  The lung-heart ratio is increased at 0.52.   
  
Left ventricular cavity size is increased. 
  
Rest and stress perfusion images reveal a predominantly fixed, 
severe reduction 
in photon counts involving the entire inferior wall and the mid 
and basal 
inferolateral walls.   
  
Gated images reveal akinesis of the entire inferior wall and the 
mid and basal 
inferolateral walls.  The remaining segments are hypokinetic.   
  
The calculated left ventricular ejection fraction is 19% with an 
EDV of 375 ml. 
  
IMPRESSION: 
  
1. Predominantly fixed, large, severe perfusion defect involving 
the RCA 
territory. 
  
2. Increased left ventricular cavity size.  Severe systolic 
dysfunction with 
akinesis of the entire inferior wall and the mid and basal 
inferolateral wall, 
with hypokinesis of the remaining segments.   
  

 
Brief Hospital Course:
Patient was admitted for IV antibiotics for a concerning right 
BKA stump infection. Patient was initially placed on broad 
spectrum empiric coverage. A swab of the wound was done, 
cultures grew staph aureus coag positive. Patient responded well 
to antibiotics with decreased erythema, edema and purulent 
drainage and less pain. The infection seems to have resolved and 
wound looks stable. Patient will be sent home with a short 
course of minocycline. Patient unable to do Bactrim due to 
severe interaction with his home medications. Daily dressing 
changes occurred during his admission and will continue once 
discharged until wound has healed. 

During admission patient developed purpura painful lesions on 
his left foot. Upon close evaluation it was determined the 
lesions are most likely ischemic in nature. Non invasive 
arterial studies, as well as vein mapping was obtained. Patient 
also underwent a diagnostic angiogram that showed significant 
stenosis. It is recommended patient undergo a lower extremity 
bypass in an attempt to re-vascularize the leg. A bypass was 
scheduled during the admission but due to extensive cardiac 
history, cardiovascular team was consulted and asked for a risk 
stratification. Patient was deemed high risk due to extensive 
cardiac history. Further testing was needed including a nuclear 
stress test. The planned operation was cancelled until patient 
receives cardiac clearance. Patient will pursue bypass at a 
later date once cleared. Patient will proceed with bypass at a 
later date pending cardiac clearance. 

Patient was seen and evaluated for the cardiovascular team for 
pre-operative clearance. Patient was deemed high risk based on 
history and further diagnostic testing was required, nuclear 
stress test was ordered. The original date of bypass was 
postponed per recommendations of the cardiovascular service 
until results of study were obtained. Patient was sent for 
stress testing. Upon final recommendations from cardiology, they 
states he is cleared for a future bypass procedure, his heart 
disease does not appear to acute. They recommended outpatient 
follow up with a cardiologist. 

During the admission, home Coumadin was stopped and heparin drip 
was started. Prior to a procedure being planned, Coumadin was 
restarted but it was found patient did not become therapeutic 
after several days. During the middle of the admission it was 
determined the patient would benefit from a bypass procedure. 
Coumadin was once again stopped and heparin drip started in 
anticipation for the procedure. When it was determined the 
procedure was canceled, it was determined apixiban would be 
preferred on a temporary basis until the procedure can occur. 
The plan is to restart the Coumadin once the bypass procedure it 
complete.  

OPERATIVE REPORT:
=================
Surgeon:  ___, ___

ASSISTANT:  ___.

PREOPERATIVE DIAGNOSIS:  Nonhealing ulcers of the left toes.

POSTOPERATIVE DIAGNOSIS:  Nonhealing ulcers of the left toes.

PROCEDURES:
1. Ultrasound-guided access to the right common femoral
    artery.
2. Selective catheterization of the left external iliac
    artery, ___ order vessel.
3. Abdominal aortogram.
4. Left lower extremity diagnostic angiogram.

CONTRAST VOLUME:  70 cc Visipaque.

FLUOROSCOPY TIME:  3.4 minutes.

RADIATION DOSE:  55 mGy.

INDICATIONS:  This is a ___ gentleman with a history
of diabetes, end-stage renal disease on dialysis, and
ischemic cardiomyopathy with an EF of 10% to 15% with a long
history of peripheral arterial disease.  He previously
underwent a right-sided popliteal to DP bypass, which
subsequently failed and culminated in a right BKA.  He
recently presented for wound complications of that right BKA,
but it was also noted at the time that he had nonhealing
ulcers of left toes.  He was thus consented for a left lower
extremity angiogram.

DETAILS OF PROCEDURE:  The patient was brought to the
operating room and placed supine on the OR table.  His
bilateral groins were prepped and draped in the usual sterile
fashion.  Monitored sedation was provided with divided doses
of fentanyl Versed.  We performed a time out.  We began by
evaluating the right common femoral artery under direct
ultrasound visualization.  This was noted to be patent and
free of limiting calcification.  Therefore, under direct
ultrasound visualization, the right common femoral artery was
accessed with a micropuncture needle.  Images of the
ultrasound guidance were stored in the ___ medical
record for documentation purposes.  We confirmed the level of
arterial puncture using fluoroscopy to be over the right
femoral head.  We then placed a ___ sheath in the right
groin and advanced an Omni Flush catheter into the aorta to
the level of the L1 vertebral body.  An abdominal aortogram
was then performed.  It revealed a patent infrarenal
abdominal aorta, which was free of ectasia or aneurysm or
flow limiting stenosis.  The bilateral iliac systems were
widely patent.  Next using the Omni Flush catheter and a
floppy Glidewire, we were able to get up and over the aortic
bifurcation and selected the left external iliac artery, ___
order vessel.  We then proceeded with the left lower
extremity diagnostic angiogram.  This revealed a patent left
common femoral artery, profunda and SFA.  The left popliteal
artery was patent.  In the lower leg the anterior tibial
artery occludes approximately 2 cm after its takeoff with
some distal reconstitution, but ultimately occluding again in
the mid leg.  The tibioperoneal trunk is patent.  However,
there is distal reconstitution of the peroneal artery.  The
posterior tibial artery is occluded at its origin.  Distally,
the posterior tibial artery Re constitutes the large
collateral branch from the peroneal artery and continues into
the foot.  The dorsalis pedis also reconstitutes at the level
of the ankle via collaterals from the peroneal.  Given these
findings, it was decided that the patient would require a fem
to ___ bypass.  We thus elected to terminate the procedure at
this time.  All wires and catheters were removed and the 4-
___ sheath was sutured into place to be removed at a later
time in the patient's room.  The patient tolerated the
procedure well.  There were no immediate complications
identified.  Dr. ___ was present for the entirety of the
procedure.

ANGIOGRAPHIC FINDINGS:
1. Patent infrarenal abdominal aorta without evidence of
    aneurysm or flow-limiting stenosis.
2. Patent bilateral iliac systems.
3. Patent left common femoral artery, profunda, and SFA.
4. Heavily calcified and diffusely diseased, but patent
    left popliteal artery.
5. The anterior tibial artery and posterior tibial artery
    are occluded proximally.  The peroneal artery is also
    occluded proximally, but reconstitutes distally in the
    leg and provides large collateral branches that
    reconstitute the posterior tibial artery and dorsalis
    pedis in the foot.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Furosemide 80 mg PO DAILY 
3. Warfarin 5 mg PO DAILY 
4. Lisinopril 2.5 mg PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Gabapentin 300 mg PO BID 
7. OxyCODONE (Immediate Release) 20 mg PO Q6H:PRN Pain - Severe 
8. Sertraline 50 mg PO DAILY 
9. glimepiride 1 mg oral DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
this is only a temporary change in medication until you have 
your bypass procedure  
2.  Minocycline 100 mg PO Q12H 
RX *minocycline 100 mg 1 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0 
3.  Atorvastatin 80 mg PO QPM  
4.  Furosemide 80 mg PO DAILY  
5.  Gabapentin 300 mg PO BID  
6.  glimepiride 1 mg oral DAILY  
7.  Lisinopril 2.5 mg PO DAILY  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  OxyCODONE (Immediate Release) 20 mg PO Q6H:PRN Pain - Severe 
 
10.  Sertraline 50 mg PO DAILY  
11. HELD- Warfarin 5 mg PO DAILY  This medication was held. Do 
not restart Warfarin until after your bypass procedure

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Right BKA stump infection
-Critical limb ischemia with ulcers Left Leg

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for a 
infection of your right leg. You have now recovered from your 
infection and are ready to be discharged. Please follow the 
instructions below to continue your recovery:

Please keep the wound covered in a clean dressing. Dressing can 
be changed daily. If you see any signs of increased redness, 
swelling, purulent drainage, malodor, please go to the emergency 
department immediately. Please finish your course of antibiotics 
as directed.

You were started on a new anticoagulation medication, that will 
be used temporarily for your afib, which will be stopped after 
your have your procedure. 

***PLEASE STOP YOUR ELIQUS 48 HOURS BEFORE DATE OF PROCEDURE***

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___